### PR TITLE
[Merged by Bors] - feat(FieldTheory/Galois): Fundamental theorem of infinite galois theory

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
Prove the Fundamental theorem of infinite galois theory

---

- [x] depends on: #16977
- [x] depends on: #16978
- [x] depends on: #16979
- [x] depends on: #17945

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Thmoas-Guan** [comment]
> ### PR summary [67d88dc859](https://github.com/leanprover-community/mathlib4/pull/16982/commits/67d88dc859d96c5d6dde0a2edf547731a073a8a1)
> 
> Import changes exceeding 2%
> % 	File
> +2.74% 	`Mathlib.FieldTheory.Galois.Infinite`
> #### Import changes for modified files
> 
> 			
> 			
> 	
> 	
> 	
> 	
> #### Declarations diff

This large import exist only because the file is named the same, actually the two files are doing completelly different things.

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 1]
```diff
@@ -0,0 +1,296 @@
...
+    toFun := fun x => ⟨x.1, le x.2⟩
+    map_one' := rfl
+    map_mul' := fun _ _ => rfl
+    map_zero' := rfl
+    map_add' := fun _ _ => rfl
+    commutes' := fun _ => rfl }
+  apply FiniteDimensional.of_injective (AlgHom.toLinearMap i)
+  intro _ _ h
+  apply_fun Subtype.val at h
+  exact Subtype.val_injective h
```
Comment (tb65536) [inline Mathlib/FieldTheory/Galois/Infinite.lean:235]: This is worth moving to an earlier file. You could use `IntermediateField.inclusion` to help golf this.

Comment (Thmoas-Guan) [reply Mathlib/FieldTheory/Galois/Infinite.lean]: Thank you for your suggestion, but I didn't find a good place for it, `find_home` suggest `FieldTheory.Adjoin`, but I didn't see places relavant with it, any suggestions about where to put it?

Comment (tb65536) [reply Mathlib/FieldTheory/Galois/Infinite.lean]: Yeah, maybe either adjoin or the relrank file (where you could probably also prove this using `IntermediateField.relrank_dvd_of_le_left`).

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 2]
```diff
@@ -0,0 +1,282 @@
...
+Authors: Nailin Guan
+-/
+import Mathlib.FieldTheory.KrullTopology
+import Mathlib.FieldTheory.Galois.GaloisClosure
+import Mathlib.Topology.Algebra.ClosedSubgroup
+/-!
+
+# The Fundamental Theorem of Infinite Galois Theory
+
+In this file, we proved the fundamental theorem of infinite Galois theory and the special case for
```
Comment (kbuzzard) [inline Mathlib/FieldTheory/Galois/Infinite.lean:13]:
```suggestion
In this file, we prove the fundamental theorem of infinite Galois theory and the special case for
```

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 3]
```diff
@@ -0,0 +1,282 @@
...
+
+In `K/k`, for any intermediate field `L` :
+
+* `fixingSubgroup_isClosed` : the fixing subgroup of `L`
+  (`Gal(K/L)`) is closed.
+
+* `fixedField_fixingSubgroup` : the fixing field of the
+  fixing subgroup of `L` is equal to `L` itself.
+
+For any subgroup of `Gal(K/k)` `H` :
```
Comment (kbuzzard) [inline Mathlib/FieldTheory/Galois/Infinite.lean:28]:
```suggestion
For any subgroup `H` of `Gal(K/k)` :
```

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 4]
```diff
@@ -0,0 +1,282 @@
...
+-/
+
+variable {k K : Type*} [Field k] [Field K] [Algebra k K]
+
+namespace InfiniteGalois
+
+open Pointwise FiniteGaloisIntermediateField AlgEquiv
+--Note: The `adjoin`s below are `FiniteGaloisIntermediateField.adjoin`
+
+instance : TopologicalSpace (K ≃ₐ[k] K) := inferInstance
```
Comment (kbuzzard) [inline Mathlib/FieldTheory/Galois/Infinite.lean:59]: If typeclass inference already knows this, then is this line necessary? If it is, can you add a comment explaining why?

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 5]
```diff
@@ -0,0 +1,282 @@
...
+        have : g y = y := (mem_fixingSubgroup_iff (K ≃ₐ[k] K)).mp hg y <|
+          adjoin_simple_le_iff.mp fun ⦃x⦄ a ↦ a
+        simpa only [this, ne_eq, AlgEquiv.smul_def] using ne
+      · simp only [(IntermediateField.fixingSubgroup_isOpen (adjoin k {y}).1).smul σ, true_and]
+        use 1
+        simp only [SetLike.mem_coe, smul_eq_mul, mul_one, and_true, Subgroup.one_mem]
+
+lemma fixedField_fixingSubgroup (L : IntermediateField k K) [IsGalois k K] :
+    IntermediateField.fixedField L.fixingSubgroup = L := by
+  letI : IsGalois L K := inferInstance
```
Comment (kbuzzard) [inline Mathlib/FieldTheory/Galois/Infinite.lean:84]: Is this line necessary? Maybe write a comment saying why, if it is?

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 6]
```diff
@@ -0,0 +1,282 @@
...
+  apply le_antisymm
+  · intro x hx
+    rw [IntermediateField.mem_fixedField_iff] at hx
+    have mem : x ∈ (adjoin L {x}).1 := subset_adjoin _ _ rfl
+    have : IntermediateField.fixedField (⊤ : Subgroup ((adjoin L {x}) ≃ₐ[L] (adjoin L {x}))) = ⊥ :=
+      (IsGalois.tfae.out 0 1).mp (by infer_instance)
```
Comment (kbuzzard) [inline Mathlib/FieldTheory/Galois/Infinite.lean:90]: `inferInstance` is the term, if you want to avoid going into tactic mode (probably saves a few milliseconds ;-) )

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 7]
```diff
@@ -0,0 +1,282 @@
...
+    have : ⟨x, mem⟩ ∈ (⊥ : IntermediateField L (adjoin L {x})) := by
+      rw [← this, IntermediateField.mem_fixedField_iff]
+      intro f _
+      rcases restrictNormalHom_surjective K f with ⟨σ,hσ⟩
+      apply Subtype.val_injective
+      rw [← hσ, restrictNormalHom_apply (adjoin L {x}).1 σ ⟨x, mem⟩]
+      have := hx ((IntermediateField.fixingSubgroupEquiv L).symm σ)
+      simp only [SetLike.coe_mem, true_implies] at this
+      exact this
```
Comment (kbuzzard) [inline Mathlib/FieldTheory/Galois/Infinite.lean:99]:
```suggestion
      simpa only [SetLike.coe_mem, true_implies]
```
From the `simpa` docs:
```
simpa [rules, ⋯] will simplify the goal and the type of a hypothesis `this` if present in the context, then try to close the goal using the assumption tactic.
```
So it does exactly what your two lines do.

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 8]
```diff
@@ -0,0 +1,282 @@
...
+  right_inv := by
+    intro H
+    simp_rw [fixingSubgroup_fixedField H]
+    rfl
+  map_rel_iff' := by
+    intro L₁ L₂
+    show L₁.fixingSubgroup ≥ L₂.fixingSubgroup ↔ L₁ ≤ L₂
+    rw [← fixedField_fixingSubgroup L₂, IntermediateField.le_iff_le, fixedField_fixingSubgroup L₂]
+
+/-- The Galois correspondence as a `GaloisInsertion` -/
```
Comment (kbuzzard) [inline Mathlib/FieldTheory/Galois/Infinite.lean:199]: This is an equivalence right? What is the advantage of making it a Galois insertion? Surely the correct Galois insertion (or possibly coinsertion) is between intermediate fields and *all* subgroups (not just closed ones)? Because this gives you new information. It's an insertion (or coinsertion) because if you start with the field, then make the group, then make the field, it's the field you started with. The same isn't true for the groups of course, you end up with the closure of the group.

I'm slightly surprised that you can't just define the Galois insertion here in one line, invoking some result which says "an order isomorphism gives a Galois insertion". [looks in docs] yeah how about [OrderIso.toGaloisInsertion](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/GaloisConnection.html#OrderIso.toGaloisInsertion) ? I'm not clear what this is giving you.

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 9]
```diff
@@ -0,0 +1,282 @@
...
+        OrderDual.toDual) where
+  choice E _ := ⟨E.fixingSubgroup, fixingSubgroup_isClosed E⟩
+  gc E H := (IntermediateField.le_iff_le H.1 E).symm
+  le_l_u H := by
+    simp only [Function.comp_apply, fixingSubgroup_fixedField]
+    rfl
+  choice_eq _ _ := rfl
+
+/-- The Galois correspondence as a `GaloisCoinsertion` -/
+def GaloisCoinsertionIntermediateFieldSubgroup [IsGalois k K] :
```
Comment (kbuzzard) [inline Mathlib/FieldTheory/Galois/Infinite.lean:213]: This is `OrderIso.toGaloisCoinsertion` I think?

**Review by kbuzzard — APPROVED** [review]
Excellent work! Many thanks!

File: Mathlib/FieldTheory/Galois/Infinite.lean (hunk 6 above)
Comment (Thmoas-Guan) [reply Mathlib/FieldTheory/Galois/Infinite.lean:90]: I doesn't know clearly why `inferInstance` failed here, it doesn't seem to work.

File: Mathlib/FieldTheory/Galois/Infinite.lean (hunk 8 above)
Comment (Thmoas-Guan) [reply Mathlib/FieldTheory/Galois/Infinite.lean:199]: I just copied these two results from the original `Galois` file, sorry that I doesn't know the reason clearly.

File: Mathlib/FieldTheory/Galois/Infinite.lean (hunk 4 above)
Comment (Thmoas-Guan) [reply Mathlib/FieldTheory/Galois/Infinite.lean:59]: It could be deleted, it is only somehow needed while proving, nevermind.

File: Mathlib/FieldTheory/Galois/Infinite.lean (hunk 9 above)
Comment (Thmoas-Guan) [reply Mathlib/FieldTheory/Galois/Infinite.lean:204]: I found out that `galoisCoinsertionIntermediateFieldSubgroup` in the `Galois.Basic` can actually prove by this.

File: Mathlib/FieldTheory/Galois/Infinite.lean (hunk 8 above)
Comment (Thmoas-Guan) [reply Mathlib/FieldTheory/Galois/Infinite.lean:195]: The one-line proof works well for Insertion, it is the `coinsertion` that can be changed into subgroup.

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 10]
```diff
@@ -0,0 +1,272 @@
...
+In this file, we prove the fundamental theorem of infinite Galois theory and the special case for
+open subgroups and normal subgroups. We first verify that `IntermediateField.fixingSubgroup` and
+`IntermediateField.fixedField` are inverses of each other between intermediate fields and
+closed subgroups of the Galois group.
+
+# Main definitions and results
+
+In `K/k`, for any intermediate field `L` :
+
+* `fixingSubgroup_isClosed` : the fixing subgroup of `L`
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Galois/Infinite.lean:22]:
```suggestion
* `fixingSubgroup_isClosed` : the subgroup fixing `L`
```

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 11]
```diff
@@ -0,0 +1,272 @@
...
+  (`Gal(K/L)`) is closed.
+
+* `fixedField_fixingSubgroup` : the fixing field of the
+  fixing subgroup of `L` is equal to `L` itself.
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Galois/Infinite.lean:26]:
```suggestion
* `fixedField_fixingSubgroup` : the field fixed by the
  subgroup fixing `L` is equal to `L` itself.
```

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 12]
```diff
@@ -0,0 +1,272 @@
...
+
+For any subgroup `H` of `Gal(K/k)` :
+
+* `restrict_fixedField` : For a Galois intermediate field `M`, the fixed field of the image of `H`
+  restricted to `M` is equal to the fixed field of `H` intersected with `M`.
+* `fixingSubgroup_fixedField` : If `H` is closed, the fixing subgroup of the fixed field of `H`
+  is equal to `H` itself.
+
+The fundamental theorem of infinite galois theory :
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Galois/Infinite.lean:35]:
```suggestion
The fundamental theorem of infinite Galois theory :
```

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 13]
```diff
@@ -0,0 +1,272 @@
...
+
+* `IntermediateFieldEquivClosedSubgroup` : The order equivalence is given by mapping any
+  intermediate field `L` to the fixing subgroup of `L`, with its inverse mapping any
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Galois/Infinite.lean:38]:
```suggestion
  intermediate field `L` to the subgroup fixing `L`, and the inverse maps any
```

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 14]
```diff
@@ -0,0 +1,272 @@
...
+  closed subgroup of `Gal(K/k)` `H` to the fixed field of `H`. The composition is equal to
+  the identity as described in the lemmas above, and compatibility with the order follows easily.
+
+Special cases :
+
+* `OpeniffFinite` : The fixing subgroup of an intermediate field `L` is open iff
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Galois/Infinite.lean:44]:
```suggestion
* `OpeniffFinite` : The fixing subgroup of an intermediate field `L` is open if and only if
```

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 15]
```diff
@@ -0,0 +1,272 @@
...
+  `L` is finite-dimensional.
+
+* `NormaliffGalois` : The fixing subgroup of an intermediate field `L` is normal iff
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Galois/Infinite.lean:47]:
```suggestion
* `NormaliffGalois` : The fixing subgroup of an intermediate field `L` is normal if and only if
```

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 16]
```diff
@@ -0,0 +1,272 @@
...
+    have : ((restrictNormalHom L') h ⟨y,hy⟩).1 = ((restrictNormalHom L') σ ⟨y,hy⟩).1 := by rw [eq]
+    rw [restrictNormalHom_apply L'.1 h ⟨y, hy⟩, restrictNormalHom_apply L'.1 σ ⟨y, hy⟩] at this
+    simp only [this, ← AlgEquiv.mul_apply, inv_mul_cancel, one_apply]
+  absurd compl
+  apply Set.not_subset.mpr
+  use h
+  simpa only [this, Set.mem_compl_iff, Subsemigroup.mem_carrier, Submonoid.mem_toSubsemigroup,
+    Subgroup.mem_toSubmonoid, not_not, true_and] using mem
+
+/-- The Galois correspondence from intermediate fields to ClosedSubgroup. -/
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Galois/Infinite.lean:178]:
```suggestion
/-- The Galois correspondence from intermediate fields to closed subgroups. -/
```

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 17]
```diff
@@ -0,0 +1,272 @@
...
+def GaloisCoinsertionIntermediateFieldSubgroup [IsGalois k K] :
+    GaloisCoinsertion (OrderDual.toDual ∘ fun (E : IntermediateField k K) ↦ E.fixingSubgroup)
+      ((fun (H : Subgroup (K ≃ₐ[k] K)) ↦ IntermediateField.fixedField H) ∘
+        OrderDual.toDual) where
+  choice H _ := IntermediateField.fixedField H
+  gc E H := (IntermediateField.le_iff_le H E).symm
+  u_l_le K := le_of_eq (fixedField_fixingSubgroup K)
+  choice_eq _ _ := rfl
+
+theorem open_iff_finite (L : IntermediateField k K) [IsGalois k K] :
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Galois/Infinite.lean:213]: In the doc at the top of the file you follow a different (and wrong there, right here, I think) capitalization convention.

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 18]
```diff
@@ -0,0 +1,272 @@
...
+    isGalois := IsGalois.normalClosure k M K }
+  have : L'.1.fixingSubgroup.carrier ⊆ (IntermediateFieldEquivClosedSubgroup.1.1 L).carrier := by
+    have : M ≤ L'.1 := IntermediateField.le_normalClosure M
+    rw [←  fixedField_fixingSubgroup L'.1, IntermediateField.le_iff_le] at this
+    exact fun _ a ↦ sub (this a)
+  apply IntermediateField.finiteDimensional_of_le (N := L'.1)
+  rw [← fixedField_fixingSubgroup L'.1, IntermediateField.le_iff_le]
+  exact this
+
+theorem normal_iff_isGalois (L : IntermediateField k K) [IsGalois k K] :
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Galois/Infinite.lean:235]: ditto

File: Mathlib/FieldTheory/Galois/Basic.lean [hunk 19]
```diff
@@ -184,6 +184,12 @@ namespace IntermediateField
 def fixedField : IntermediateField F E :=
   FixedPoints.intermediateField H
 
+@[simp]
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Galois/Basic.lean:187]: Are you sure we want to mark this as `simp`? I would say the RHS and LHS are "equally hard" or "equally simple".

File: Mathlib/FieldTheory/Adjoin.lean [hunk 20]
```diff
@@ -1705,4 +1705,13 @@ theorem cardinalMk_adjoin_le {E : Type u} [Field E] [Algebra F E] (s : Set E) :
 
 end IntermediateField
 
+namespace IntermediateField
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Adjoin.lean:1708]: Why is this result here and not in `Mathlib.FieldTheory.IntermediateField.Basic`? To me that would seem the most natural choice, but if you thought about this I am all ears!

**Review by faenuccio — COMMENTED** [review]
Most of my comments are stylistic/organizational. I will give a second round of review to your main code later. But thanks a lot for this wonderful work!

File: Mathlib/FieldTheory/Adjoin.lean (hunk 20 above)
Comment (Thmoas-Guan) [reply Mathlib/FieldTheory/Adjoin.lean:1708]: `#find-home` suggested this place, probably because in that file it didn't import things about finite dimensional

File: Mathlib/FieldTheory/Galois/Basic.lean (hunk 19 above)
Comment (Thmoas-Guan) [reply Mathlib/FieldTheory/Galois/Basic.lean:187]: This is probably just added when writting the codes, it can be removed, I am not very clear of the effect of marking it `simp`, maybe you can give an advice.

File: Mathlib/FieldTheory/Adjoin.lean (hunk 20 above)
Comment (faenuccio) [reply Mathlib/FieldTheory/Adjoin.lean:1708]: OK, I would honestly move it there then, perhaps around the end of the file (right before or right after the two extend/restric scalars sections) in a `section Finite`.

**Comment by faenuccio** [comment]
I notice in your last commit that you write "move lemma to a better position" but (if you're speaking about `finiteDimensional_of_le`) it seems always in the same file, no?

**Comment by Thmoas-Guan** [comment]
> I notice in your last commit that you write "move lemma to a better position" but (if you're speaking about `finiteDimensional_of_le`) it seems always in the same file, no?

I think I only followed your advice and moved it to a section named `Finite` after `extendScalars`

**Comment by faenuccio** [comment]
> > I notice in your last commit that you write "move lemma to a better position" but (if you're speaking about `finiteDimensional_of_le`) it seems always in the same file, no?
> 
> I think I only followed your advice and moved it to a section named `Finite` after `extendScalars` Sorry that maybe "this place" made some confusions, I think I mean it need to be in `Adjoin`(suggested by `#find_home`).

No, it is my fault. I meant in the file `Mathlib.FieldTheory.IntermediateField.Basic` (in a `Finite` section after `extendScalars` as you did here). I am sorry.

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 21]
```diff
@@ -0,0 +1,271 @@
...
+namespace InfiniteGalois
+
+open Pointwise FiniteGaloisIntermediateField AlgEquiv
+--Note: The `adjoin`s below are `FiniteGaloisIntermediateField.adjoin`
+
+lemma fixingSubgroup_isClosed (L : IntermediateField k K) [IsGalois k K] :
+    IsClosed (L.fixingSubgroup : Set (K ≃ₐ[k] K)) where
+    isOpen_compl := isOpen_iff_mem_nhds.mpr fun σ h => by
+      apply mem_nhds_iff.mpr
+      rcases Set.not_subset.mp ((mem_fixingSubgroup_iff (K ≃ₐ[k] K)).not.mp h) with ⟨y,yL,ne⟩
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Galois/Infinite.lean:62]:
```suggestion
      rcases Set.not_subset.mp ((mem_fixingSubgroup_iff (K ≃ₐ[k] K)).not.mp h) with ⟨y, yL, ne⟩
```

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 22]
```diff
@@ -0,0 +1,271 @@
...
+      use σ • ((adjoin k {y}).1.fixingSubgroup : Set (K ≃ₐ[k] K))
+      constructor
+      · intro f hf
+        rcases (Set.mem_smul_set.mp hf) with ⟨g,hg,eq⟩
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Galois/Infinite.lean:66]:
```suggestion
        rcases (Set.mem_smul_set.mp hf) with ⟨g, hg, eq⟩
```

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 23]
```diff
@@ -0,0 +1,271 @@
...
+        simp only [Set.mem_compl_iff, SetLike.mem_coe, ← eq]
+        apply (mem_fixingSubgroup_iff (K ≃ₐ[k] K)).not.mpr
+        push_neg
+        use y
+        simp only [yL, smul_eq_mul, AlgEquiv.smul_def, AlgEquiv.mul_apply, ne_eq, true_and]
+        have : g y = y := (mem_fixingSubgroup_iff (K ≃ₐ[k] K)).mp hg y <|
+          adjoin_simple_le_iff.mp fun ⦃x⦄ a ↦ a
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Galois/Infinite.lean:73]:
```suggestion
          adjoin_simple_le_iff.mp (by rfl)
```

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 24]
```diff
@@ -0,0 +1,271 @@
...
+      intro f _
+      rcases restrictNormalHom_surjective K f with ⟨σ,hσ⟩
+      apply Subtype.val_injective
+      rw [← hσ, restrictNormalHom_apply (adjoin L {x}).1 σ ⟨x, mem⟩]
+      have := hx ((IntermediateField.fixingSubgroupEquiv L).symm σ)
+      simpa only [SetLike.coe_mem, true_implies]
+    rcases IntermediateField.mem_bot.mp this with ⟨y, hy⟩
+    obtain ⟨rfl⟩ : y = x := congrArg Subtype.val hy
+    exact y.2
+  · exact (IntermediateField.le_iff_le L.fixingSubgroup L).mpr fun ⦃x⦄ a ↦ a
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Galois/Infinite.lean:98]:
```suggestion
  · exact (IntermediateField.le_iff_le L.fixingSubgroup L).mpr (by rfl)
```

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 25]
```diff
@@ -0,0 +1,271 @@
...
+
+lemma fixedField_bot [IsGalois k K] :
+    IntermediateField.fixedField (⊤ : Subgroup (K ≃ₐ[k] K)) = ⊥ := by
+  rw [← IntermediateField.fixingSubgroup_bot, fixedField_fixingSubgroup]
+
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Galois/Infinite.lean:103]: Can you add a sentence of doc to `restrict_fixedField`?

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 26]
```diff
@@ -0,0 +1,271 @@
...
+lemma restrict_fixedField (H : Subgroup (K ≃ₐ[k] K)) (L : IntermediateField k K) [IsGalois k L] :
+    (IntermediateField.fixedField H) ⊓ L = IntermediateField.lift (IntermediateField.fixedField
+    (Subgroup.map (restrictNormalHom (F := k) (K₁ := K) L) H)) := by
+  apply SetLike.ext'
+  ext x
+  refine ⟨fun h ↦ ?_, fun h ↦ ?_⟩
+  · have xL := h.out.2
+    apply (IntermediateField.mem_lift (⟨x, xL⟩ : L)).mpr
+    rw [IntermediateField.mem_fixedField_iff]
+    simp only [Subgroup.mem_map, forall_exists_index, and_imp, forall_apply_eq_imp_iff₂]
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Galois/Infinite.lean:113]:
```suggestion
    simp only [IntermediateField.mem_fixedField_iff, Subgroup.mem_map, forall_exists_index, and_imp, forall_apply_eq_imp_iff₂]
```

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 27]
```diff
@@ -0,0 +1,271 @@
...
+    intro σ hσ
+    apply Subtype.val_injective
+    dsimp
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Galois/Infinite.lean:116]:
```suggestion
    dsimp only
```

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 28]
```diff
@@ -0,0 +1,271 @@
...
+      IntermediateField.mem_fixedField_iff, xL, and_true]
+    intro σ hσ
+    have : ((restrictNormalHom L σ) ⟨x, xL⟩).1 = x := by rw [h σ hσ]
+    nth_rw 2 [← this]
+    exact (AlgEquiv.restrictNormal_commutes σ L ⟨x, xL⟩).symm
+
+lemma fixingSubgroup_fixedField (H : ClosedSubgroup (K ≃ₐ[k] K)) [IsGalois k K] :
+    (IntermediateField.fixedField H).fixingSubgroup = H.1 := by
+  apply le_antisymm _ ((IntermediateField.le_iff_le H.toSubgroup
+    (IntermediateField.fixedField H.toSubgroup)).mp fun ⦃x⦄ a ↦ a)
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Galois/Infinite.lean:133]:
```suggestion
    (IntermediateField.fixedField H.toSubgroup)).mp (by rfl))
```

Comment (faenuccio) [inline Mathlib/FieldTheory/Galois/Infinite.lean:133]:
```suggestion
    (IntermediateField.fixedField H.toSubgroup)).mp (by rfl)
```
Please take care of all other occurrencies. What you're doing is saying that something is `≤` than itself, and this is `rfl`.

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 29]
```diff
@@ -0,0 +1,271 @@
...
+  intro σ hσ
+  by_contra h
+  have nhd : H.carrierᶜ ∈ nhds σ := H.isClosed'.isOpen_compl.mem_nhds h
+  rw [GroupFilterBasis.nhds_eq (x₀ := σ) (galGroupBasis k K)] at nhd
+  rcases nhd with ⟨b,⟨gp,⟨L,hL,eq'⟩,eq⟩,sub⟩
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Galois/Infinite.lean:138]:
```suggestion
  rcases nhd with ⟨b, ⟨gp, ⟨L, hL, eq'⟩, eq⟩, sub⟩
```

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 30]
```diff
@@ -0,0 +1,271 @@
...
+  have sub : σ • b ⊆ H.carrierᶜ := Set.smul_set_subset_iff.mpr sub
+  have := hL.out
+  let L' : FiniteGaloisIntermediateField k K := {
+    normalClosure k L K with
+    finiteDimensional := normalClosure.is_finiteDimensional k L K
+    isGalois := IsGalois.normalClosure k L K }
+  have compl : σ • L'.1.fixingSubgroup.carrier ⊆ H.carrierᶜ :=
+    fun ⦃a⦄ d ↦ sub ((Set.set_smul_subset_set_smul_iff.mpr <| eq ▸ (fun σ h =>
+    (mem_fixingSubgroup_iff (K ≃ₐ[k] K)).mpr fun y hy => (mem_fixingSubgroup_iff (K ≃ₐ[k] K)).mp
+    h y (IntermediateField.le_normalClosure L hy))) d)
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Galois/Infinite.lean:149]: Can you expand this proof of `compl`? As it is, it's too obscure.

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 31]
```diff
@@ -0,0 +1,271 @@
...
+  have : h ∈ σ • L'.1.fixingSubgroup.carrier := by
+    use σ⁻¹ * h
+    simp only [Subsemigroup.mem_carrier, Submonoid.mem_toSubsemigroup, Subgroup.mem_toSubmonoid,
+      smul_eq_mul, mul_inv_cancel_left, and_true]
+    apply (mem_fixingSubgroup_iff (K ≃ₐ[k] K)).mpr
+    intro y hy
+    simp only [AlgEquiv.smul_def, AlgEquiv.mul_apply]
+    have : ((restrictNormalHom L') h ⟨y,hy⟩).1 = ((restrictNormalHom L') σ ⟨y,hy⟩).1 := by rw [eq]
+    rw [restrictNormalHom_apply L'.1 h ⟨y, hy⟩, restrictNormalHom_apply L'.1 σ ⟨y, hy⟩] at this
+    simp only [this, ← AlgEquiv.mul_apply, inv_mul_cancel, one_apply]
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Galois/Infinite.lean:170]:
```suggestion
    have : ((restrictNormalHom L') h ⟨y,hy⟩).1 = ((restrictNormalHom L') σ ⟨y,hy⟩).1 := by rw [eq]
    rw [restrictNormalHom_apply L'.1 h ⟨y, hy⟩, restrictNormalHom_apply L'.1 σ ⟨y, hy⟩] at this
    simp only [AlgEquiv.smul_def]
```

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 32]
```diff
@@ -0,0 +1,271 @@
...
+theorem normal_iff_isGalois (L : IntermediateField k K) [IsGalois k K] :
+    Subgroup.Normal (IntermediateFieldEquivClosedSubgroup L).1 ↔
+    IsGalois k L := by
+  refine ⟨fun h ↦ ?_, fun h ↦ ?_⟩
+  · let f : L → IntermediateField k K := fun x => IntermediateField.lift <|
+      IntermediateField.fixedField <| Subgroup.map (restrictNormalHom
+      (adjoin k {x.1})) L.fixingSubgroup
+    have h' (x : K) : (Subgroup.map (restrictNormalHom
+      (adjoin k {x})) L.fixingSubgroup).Normal := by
+      set f := restrictNormalHom (F := k) (K₁ := K) (adjoin k {x})
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Galois/Infinite.lean:243]: Can't you pick another letter, since `f` has already been introduced? Also, use `let` instead of `set` if you don't need an equality inserted in the context.

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 33]
```diff
@@ -0,0 +1,271 @@
...
+      exact Subgroup.Normal.map h f (restrictNormalHom_surjective K)
+    have n' (l : L) : IsGalois k (IntermediateField.fixedField <| Subgroup.map
+      (restrictNormalHom (adjoin k {l.1})) L.fixingSubgroup) := by
+      letI := IsGalois.of_fixedField_normal_subgroup (Subgroup.map (restrictNormalHom
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Galois/Infinite.lean:247]:
```suggestion
      let _ := IsGalois.of_fixedField_normal_subgroup (Subgroup.map (restrictNormalHom
```

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 34]
```diff
@@ -0,0 +1,271 @@
...
+        (adjoin k {l.1})) L.fixingSubgroup)
+      set cH := (Subgroup.map (restrictNormalHom (adjoin k {l.1})) L.fixingSubgroup)
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Galois/Infinite.lean:249]:
```suggestion
      let cH := (Subgroup.map (restrictNormalHom (adjoin k {l.1})) L.fixingSubgroup)
```

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 35]
```diff
@@ -0,0 +1,271 @@
...
+      exact IsGalois.of_algEquiv <| IntermediateField.liftAlgEquiv (IntermediateField.fixedField cH)
+    have n : Normal k ↥(⨆ (l : L), f l):= IntermediateField.normal_iSup k K f
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Galois/Infinite.lean:251]:
```suggestion
    have n : Normal k ↥(⨆ (l : L), f l) := IntermediateField.normal_iSup k K f
```

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 36]
```diff
@@ -0,0 +1,271 @@
...
+    have : (⨆ (l : L), f l) = L := by
+      apply le_antisymm
+      · apply iSup_le
+        intro l
+        simp only [f, ← restrict_fixedField L.fixingSubgroup (adjoin k {l.1}),
+          fixedField_fixingSubgroup L]
+        exact inf_le_left
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Galois/Infinite.lean:258]:
```suggestion
        simpa only [f, ← restrict_fixedField L.fixingSubgroup (adjoin k {l.1}),
          fixedField_fixingSubgroup L] using inf_le_left
```

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 37]
```diff
@@ -0,0 +1,271 @@
...
+      · intro l hl
+        apply le_iSup f ⟨l,hl⟩
+        simp only [f, ← restrict_fixedField L.fixingSubgroup (adjoin k {l}),
+          fixedField_fixingSubgroup L, IntermediateField.mem_inf, hl, true_and]
+        exact adjoin_simple_le_iff.mp fun _ a ↦ a
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Galois/Infinite.lean:263]:
```suggestion
        simpa only [f, ← restrict_fixedField L.fixingSubgroup (adjoin k {l}),
          fixedField_fixingSubgroup L, IntermediateField.mem_inf, hl, true_and] using
          adjoin_simple_le_iff.mp (by rfl)
```

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 38]
```diff
@@ -0,0 +1,271 @@
...
+    rw [this] at n
+    letI : Algebra.IsSeparable k L := Algebra.isSeparable_tower_bot_of_isSeparable k L K
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Galois/Infinite.lean:265]:
```suggestion
    let _ : Algebra.IsSeparable k L := Algebra.isSeparable_tower_bot_of_isSeparable k L K
```

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 39]
```diff
@@ -0,0 +1,271 @@
...
+    apply IsGalois.mk
+  · simp only [IntermediateFieldEquivClosedSubgroup, RelIso.coe_fn_mk, Equiv.coe_fn_mk,
+      ← L.restrictNormalHom_ker]
+    exact MonoidHom.normal_ker (restrictNormalHom L)
```
Comment (faenuccio) [inline Mathlib/FieldTheory/Galois/Infinite.lean:269]:
```suggestion
  · simpa only [IntermediateFieldEquivClosedSubgroup, RelIso.coe_fn_mk, Equiv.coe_fn_mk,
      ← L.restrictNormalHom_ker] using MonoidHom.normal_ker (restrictNormalHom L)
```

**Review by faenuccio — COMMENTED** [review]
Excellent contribution, thank you very much. As far as I am concerned, I think we're almost ready, if @kbuzzard agrees. One point: I think it would be very easy, but useful, to combine your result and add one lemma saying that an extension is finite and Galois iff the subroup is open and normal. This follows immediately by combining your results, but it is often needed and it would be nice to have a separate declaration.

File: Mathlib/FieldTheory/Adjoin.lean [hunk 40]
```diff
@@ -1634,6 +1634,19 @@ end IntermediateField
...
 end ExtendScalars
 
+section Finite
+
+namespace IntermediateField
+
+lemma finiteDimensional_of_le {E F : Type*} [Field F] [Field E] [Algebra F E]
+    {M N : IntermediateField F E} (le : M ≤ N) [FiniteDimensional F N] : FiniteDimensional F M :=
+  FiniteDimensional.of_injective (AlgHom.toLinearMap (IntermediateField.inclusion le))
+    (IntermediateField.inclusion_injective le)
```
Comment (tb65536) [inline Mathlib/FieldTheory/Adjoin.lean:1644]: Maybe this should be `finiteDimensional_left_of_le` and there should be a `finiteDimensional_right_of_le` that says `FiniteDimensional M E` implies `finiteDimensional N E`?

File: Mathlib/FieldTheory/Galois/Infinite.lean [hunk 41]
```diff
@@ -0,0 +1,271 @@
...
+    obtain ⟨rfl⟩ : y = x := congrArg Subtype.val hy
+    exact y.2
+  · exact (IntermediateField.le_iff_le L.fixingSubgroup L).mpr fun ⦃x⦄ a ↦ a
+
+lemma fixedField_bot [IsGalois k K] :
+    IntermediateField.fixedField (⊤ : Subgroup (K ≃ₐ[k] K)) = ⊥ := by
+  rw [← IntermediateField.fixingSubgroup_bot, fixedField_fixingSubgroup]
+
+lemma restrict_fixedField (H : Subgroup (K ≃ₐ[k] K)) (L : IntermediateField k K) [IsGalois k L] :
+    (IntermediateField.fixedField H) ⊓ L = IntermediateField.lift (IntermediateField.fixedField
```
Comment (tb65536) [inline Mathlib/FieldTheory/Galois/Infinite.lean:105]: This would benefit from `open IntermediateField`.

File: Mathlib/FieldTheory/Galois/Infinite.lean (hunk 28 above)
Comment (tb65536) [reply Mathlib/FieldTheory/Galois/Infinite.lean:133]: You could probably even use term mode `le_rfl`.

File: Mathlib/FieldTheory/Galois/Infinite.lean (hunk 41 above)
Comment (Thmoas-Guan) [reply Mathlib/FieldTheory/Galois/Infinite.lean:105]: I think I alredy opened `FiniteGaloisIntermediateField`, opening it too may cause trouble on `adjoin`

File: Mathlib/FieldTheory/Galois/Infinite.lean (hunk 31 above)
Comment (Thmoas-Guan) [reply Mathlib/FieldTheory/Galois/Infinite.lean:170]: Does this realy work?

File: Mathlib/FieldTheory/Galois/Infinite.lean (hunk 32 above)
Comment (Thmoas-Guan) [reply Mathlib/FieldTheory/Galois/Infinite.lean:243]: I think I can just insert it into the term, also needn't to add the `(F := k)` thing

File: Mathlib/FieldTheory/Galois/Infinite.lean (hunk 28 above)
Comment (Thmoas-Guan) [reply Mathlib/FieldTheory/Galois/Infinite.lean:133]: found one relevant that can be modified too, thanks for the suggestion

File: Mathlib/FieldTheory/Galois/Infinite.lean (hunk 41 above)
Comment (Thmoas-Guan) [reply Mathlib/FieldTheory/Galois/Infinite.lean]: Opened, thanks.

File: Mathlib/FieldTheory/Galois/Infinite.lean (hunk 31 above)
Comment (faenuccio) [reply Mathlib/FieldTheory/Galois/Infinite.lean:173]: It worked for me, have you tried? At any rate the answer is easy: if it works, go for it, if it does not (i.e. I made a mistake), forget it 😄

**Comment by faenuccio** [comment]
I see you posted a comment
```quote
I think I alredy opened FiniteGaloisIntermediateField, opening it too may cause trouble on adjoin
```
but I cannot find it anymore. At any rate I am suggesting that you *do not touch the file `adjoin` altogether, irrespective of what `find home` says. Just move that lemma to another file, and leave `adjoin` as it is before this PR.

**Comment by Thmoas-Guan** [comment]
> I see you posted a comment
> 
> ```
> I think I alredy opened FiniteGaloisIntermediateField, opening it too may cause trouble on adjoin
> ```
> 
> but I cannot find it anymore. At any rate I am suggesting that you *do not touch the file `Adjoin` altogether, irrespective of what `find home` says. Just move that lemma to another file, and leave `Adjoin` as it is before this PR.

Sorry that I caused confusion again, what I mean is in `Infinite.lean` I opened `FiniteGaloisIntermediateField` so opening `IntermedaiteField` may cause trouble when only writing `adjoin` for `FiniteGaloisIntermediateField.adjoin`

File: Mathlib/FieldTheory/Adjoin.lean (hunk 40 above)
Comment (Thmoas-Guan) [reply Mathlib/FieldTheory/Adjoin.lean:1644]: Matbe I shouldn't `make wheels` on my own from the start, this lemma is only a few instances away from `[FiniteDimensional.left](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Tower.html#FiniteDimensional.left)`

File: Mathlib/FieldTheory/Galois/Infinite.lean (hunk 31 above)
Comment (Thmoas-Guan) [reply Mathlib/FieldTheory/Galois/Infinite.lean:173]: I tried, even before this I once tried myself to reduce this and failed...

Comment (faenuccio) [reply Mathlib/FieldTheory/Galois/Infinite.lean:173]: Oh then forget it, I am sorry 😞

**Comment by faenuccio** [comment]
LGTM, thanks. I let @kbuzzard take the final decision since he has not yet reacted to some of your answers.

File: Mathlib/FieldTheory/Galois/Infinite.lean (hunk 6 above)
Comment (kbuzzard) [reply Mathlib/FieldTheory/Galois/Infinite.lean:86]: Yes that is surprising, `(inferInstance : IsGalois ↥L ↥(adjoin ↥L {x}).toIntermediateField)` works so it must be something to do with the order in which things are unified and metavariables are solved for.

File: Mathlib/FieldTheory/Galois/Infinite.lean (hunk 8 above)
Comment (kbuzzard) [reply Mathlib/FieldTheory/Galois/Infinite.lean:197]: Thanks! Yes, this is what I was aiming for -- it seems like this has more content. Thanks! Perhaps if you take `toDual` on the other factor then it becomes an insertion? 

You can probably even do some kind of insertion/coinsertion from Set K to Set (K ≃ₐ[k] K) with the same definition (of course the image of the maps are still intermediate fields and closed subgroup, I'm just observing that the maps themselves can be defined on this much bigger domain), although I don't know if these things are useful.

File: Mathlib/FieldTheory/Galois/Infinite.lean (hunk 9 above)
Comment (kbuzzard) [reply Mathlib/FieldTheory/Galois/Infinite.lean:206]: Let's get this one over the line first :-)

**Review by kbuzzard — APPROVED** [review]
Thanks a lot and many congratulations on getting this result formalised!

bors merge
